US09034898B2
Step 1.1 ethyl 1-benzyl-6-chloro-1H-pyrazolo[3,4-b]pyridine-4-carboxylate
Phosphoryl trichloride (74 mL/0.81 mol) is added dropwise to a solution of ethyl 1-benzyl-6-hydroxy-1H-pyrazolo[3,4-b]pyridine-4-carboxylate [CAS 74439-45-5] (40.0 g/0.135 mol) in 450 mL of DMF at 0° C. under nitrogen. The reaction medium is stirred at 80° C. for 24 hours so as to give a dark brown solution. It is then run into a mixture of ice-cold water, and extracted with EtOAc. The organic phase is washed with water, dried with sodium sulphate, filtered and concentrated to dryness. The solid obtained is taken up with isopropanol, filtered, washed with diisopropyl ether and oven-dried to give 30.6 g of a yellow powder (yield: 72%).

reactant | Phosphoryl trichloride | 0.81 mol, 74 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ethyl 1-benzyl-6-hydroxy-1H-pyrazolo[3,4-b]pyridine-4-carboxylate | 0.135 mol, 40.0 g | C(C1=CC=CC=C1)N1N=CC2=C1N=C(C=C2C(=O)OCC)O | C16H15N3O3
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | DMF | 450 mL | CN(C)C=O | C3H7NO
product | ethyl 1-benzyl-6-chloro-1H-pyrazolo[3,4-b]pyridine-4-carboxylate | 30.6 g, yield: 72% | C(C1=CC=CC=C1)N1N=CC2=C1N=C(C=C2C(=O)OCC)Cl | C16H14ClN3O2
